US08084623B2
Triethylamine (2.6 mL, 19.15 mmol) was added to a suspension of 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride (1.50 g, 7.66 mmol) in DCM (30 mL). The resulting mixture was stirred for 5 minutes until complete dissolution of the solids, then was cooled to 0° C., and methyl chloroformate (0.65 mL, 8.43 mmol) was added dropwise. A thick white precipitate formed. The reaction mixture was warmed to room temperature and stirred for 1 hour, then was quenched by addition of water, and extracted with DCM. The combined organic extracts were dried over MgSO4, filtered and evaporated under reduced pressure to give 1.75 g of 4-phenyl-3,6-dihydro-2H-pyridine-1-carboxylic acid methyl ester as a pale yellow oil. This crude product (7.66 mmol) was dissolved in chloroform (30 mL) and 3-chloroperoxybenzoic acid (77%, 2.22 g, 9.95 mmol) was added. The resulting solution was stirred at room temperature for 18 hours. An aqueous solution of Na2SO3 (20%, 30 mL) was added and the resulting mixture was vigorously stirred for 1 hour. The phases were separated and the aqueous layer was extracted with DCM. The combined organic extracts were washed with a saturated aqueous solution of NaHCO3, dried over MgSO4, filtered and evaporated under reduced pressure to give a pale yellow oil. This crude oil was purified by flash chromatography (10% to 20% of EtOAc in hexane) to give 1.68 g (94% 2 steps yield) of 6-phenyl-7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid methyl ester as a colorless oil.

reactant | Triethylamine | 19.15 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride | 7.66 mmol, 1.50 g | Cl.C1(=CC=CC=C1)C=1CCNCC1
reactant | methyl chloroformate | 8.43 mmol, 0.65 mL | ClC(=O)OC | C2H3ClO2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-phenyl-3,6-dihydro-2H-pyridine-1-carboxylic acid methyl ester | 1.75 g | COC(=O)N1CCC(=CC1)C1=CC=CC=C1 | C13H15NO2
